### PR TITLE
Add several global optimization algorithms

### PR DESCRIPTION
**Pull request by gaetanserre**
Implements several global optimization algorithms:
- Pure Random Search
-  LIPO [(_Global optimization of Lipschitz functions_, Malherbe et al. 2017)](https://arxiv.org/pdf/1703.02628)
- RankOpt [(_A Ranking Approach to Global Optimization_, Malherbe et al. 2017)](https://arxiv.org/pdf/1603.04381)

Define the `evalEnv` environment : a stationary environment where the reward is given by evaluating a fixed measurable function at the chosen action.

Prove that `PRS` is consistent.

### CODE REVIEW

**Comment by RemyDegenne** [comment]
Can you place the algorithms under Optimization/Algorithms/ ? Except for PRS, which is much more general than optimization and should go to SequentialLearning/Algorithms. Also the S in PRS is application-specific since it means search, but that algorithm can also be used for non-search applications, so another name for PRS would be better. What about `randomSampling`?

**Comment by gaetanserre** [comment]
Indeed `randomSampling` is nice. I renamed `PRS`.

File: LeanMachineLearning/SequentialLearning/EvaluationEnv.lean [hunk 1]
```diff
@@ -0,0 +1,72 @@
...
+namespace Learning
+
+variable {α R : Type*} [MeasurableSpace α] [MeasurableSpace R]
+
+/-- The evaluation environment where the reward is given by evaluating a fixed measurable function
+`f` at the chosen action. -/
+noncomputable def evalEnv {f : α → R} (hf : Measurable f) :=
+  stationaryEnv <| Kernel.deterministic f hf
+
+namespace IsAlgEnvSeq
```
Comment (RemyDegenne) [inline LeanMachineLearning/SequentialLearning/EvaluationEnv.lean]: I would put the results in an EvalEnv namespace rather than IsAlgEnvSeq.

File: LeanMachineLearning/SequentialLearning/EvaluationEnv.lean [hunk 2]
```diff
@@ -0,0 +1,72 @@
...
+
+variable [StandardBorelSpace α] [Nonempty α] [StandardBorelSpace R] [Nonempty R]
+  {Ω : Type*} {mΩ : MeasurableSpace Ω} {alg : Algorithm α R} {f : α → R} {hf : Measurable f}
+  {P : Measure Ω} [IsProbabilityMeasure P] {A : ℕ → Ω → α} {R' : ℕ → Ω → R}
+
+lemma hascondDistrib_reward_evalEnv (h : IsAlgEnvSeq A R' alg (evalEnv hf) P) (n : ℕ) :
```
Comment (RemyDegenne) [inline LeanMachineLearning/SequentialLearning/EvaluationEnv.lean]:
```suggestion
lemma hascondDistrib_reward (h : IsAlgEnvSeq A R' alg (evalEnv hf) P) (n : ℕ) :
```
The last part is not needed if you use EvalEnv as namespace

File: LeanMachineLearning/SequentialLearning/EvaluationEnv.lean [hunk 3]
```diff
@@ -0,0 +1,72 @@
...
+  have hRn := h.measurable_R n
+  have hAn := h.measurable_A n
+  ⟨hRn.aemeasurable, hAn.aemeasurable, h.condDistrib_reward_stationaryEnv n⟩
+
+lemma reward_ae_eq_eval_action (h : IsAlgEnvSeq A R' alg (evalEnv hf) P) (n : ℕ) :
+    R' n =ᵐ[P] f ∘ A n :=
+  ae_eq_of_condDistrib_eq_deterministic hf (h.measurable_A n).aemeasurable
+    (h.measurable_R n).aemeasurable (hascondDistrib_reward_evalEnv h n).condDistrib_eq
+
+lemma reward_ae_eq_evals_actions (h : IsAlgEnvSeq A R' alg (evalEnv hf) P) :
```
Comment (RemyDegenne) [inline LeanMachineLearning/SequentialLearning/EvaluationEnv.lean]:
```suggestion
lemma forall_reward_ae_eq_eval_action (h : IsAlgEnvSeq A R' alg (evalEnv hf) P) :
```

File: LeanMachineLearning/SequentialLearning/EvaluationEnv.lean [hunk 4]
```diff
@@ -0,0 +1,72 @@
...
+    ∀ᵐ ω ∂P, ∀ n, R' n ω = f (A n ω) := by
+  rw [ae_all_iff]
+  intro n
+  exact reward_ae_eq_eval_action h n
+
+open Finset in
+lemma reward_ae_eq_evals_actions_comp {β : Type*} (h : IsAlgEnvSeq A R' alg (evalEnv hf) P) {n : ℕ}
```
Comment (RemyDegenne) [inline LeanMachineLearning/SequentialLearning/EvaluationEnv.lean]:
```suggestion
lemma reward_ae_eq_eval_action_comp {β : Type*} (h : IsAlgEnvSeq A R' alg (evalEnv hf) P) {n : ℕ}
```

**Review by RemyDegenne — COMMENTED** [review]
Can you open a new PR for the EvaluationEnv file only?

**Comment by gaetanserre** [comment]
See #98.
